US06670373B1
4-Methoxycarbonyl-5-phenyl-3-(2-chloro-6-fluorophenyl)isoxazole
To a solution of 2-chloro-6-fluorobenzoylchloride oxime (1.04 g, 5.00 mmol) and methyl-3-phenyl-2-propynoate (1.20 g, 7.50 mmol) in Et2O (25 ml) at 0° C. under nitrogen was added a solution of triethyl amine (0.834 ml, 6.00 mmol) in Et2O (3 ml) over 1 h. The reaction was allowed to warm to room temperature overnight (17 h). The mixture was diluted with Et2O and H2O, the layers separated, and the organic fraction was dried (MgSO4). Column chromatography (silica gel, hexane/Et2O gradient) gave the title compound (1.53 g, 92%).

reactant | 2-chloro-6-fluorobenzoylchloride oxime | 5.00 mmol, 1.04 g | ClC1=C(C(Cl)=NO)C(=CC=C1)F | C7H4Cl2FNO
reactant | methyl-3-phenyl-2-propynoate | 7.50 mmol, 1.20 g | COC(C#CC1=CC=CC=C1)=O | C10H8O2
reactant | triethyl amine | 6.00 mmol, 0.834 ml | C(C)N(CC)CC | C6H15N
solvent | Et2O | 25 ml | CCOCC | C4H10O
solvent | Et2O | 3 ml | CCOCC | C4H10O
solvent | H2O | O | H2O
product | 4-Methoxycarbonyl-5-phenyl-3-(2-chloro-6-fluorophenyl)isoxazole | 1.53 g, 92% | COC(=O)C=1C(=NOC1C1=CC=CC=C1)C1=C(C=CC=C1F)Cl | C17H11ClFNO3
